US05068334
1,3,4-Trimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared from 3,4-dimethyl-5,6,7,8-tetrahydro-cumarin- 5-one and methanolic methylamine solution over a period of 15 hours at ambient temperature.

reactant | 3,4-dimethyl-5,6,7,8-tetrahydro-cumarin- 5-one | CC=1C(OC=2CCCC(C2C1C)=O)=O | C11H12O3
reactant | methylamine | CN | CH5N
product | 1,3,4-Trimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | CN1C(C(=C(C=2C(CCCC12)=O)C)C)=O | C12H15NO2
